US07491720B2
(3) Synthesis of methyl 4-bromo-6-tert-butoxycarbonylaminopyridine-2-carboxylate
To a mixture of 4.62 g of methyl hydrogen 4-bromopyridine-2,6-dicarboxylate, 2.97 ml of triethylamine, 25 ml of t-butanol and 70 ml of 1,4-dioxane was added 4.59 ml of diphenylphosphoryl azide at room temperature. The reaction mixture was heated under reflux for 3 hours and cooled to room temperature. Water was added thereto and the resulting mixture was extracted with ethyl acetate. The obtained ethyl acetate solution was washed with water and brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to give the title compound.

reactant | methyl hydrogen 4-bromopyridine-2,6-dicarboxylate | 4.62 g | BrC1=CC(=NC(=C1)C(=O)O)C(=O)OC | C8H6BrNO4
reactant | triethylamine | 2.97 ml | C(C)N(CC)CC | C6H15N
reactant | t-butanol | 25 ml | C(C)(C)(C)O | C4H10O
reactant | diphenylphosphoryl azide | 4.59 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | Water | O | H2O
solvent | 1,4-dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | methyl 4-bromo-6-tert-butoxycarbonylaminopyridine-2-carboxylate | BrC1=CC(=NC(=C1)NC(=O)OC(C)(C)C)C(=O)OC | C12H15BrN2O4
